US07049310B2
Preparation of (E)-N-(benzofuran-2-ylmethyl)-N-methyl-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylamide
According to the procedure of Example 4, except substituting (E)-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylic acid hydrochloride salt (1.60 g, 6.3 mmole) for the (E)-3-(2-oxo[2,3-dihydro-1H-indol-5-yl)acrylic acid hydrochloride salt, and substituting 2-(methylaminomethyl)benzofuran (1.20 g, 6.9 mmole) for the 2-methyl-3-(methylaminomethyl)indole, the title compound (2.0 g, 90%) was prepared as a tan solid: MS (ES) m/e 363 (M+H)+.

reactant | (E)-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylic acid hydrochloride salt | 6.3 mmole, 1.60 g | Cl.O=C1CCC=2C=C(C=NC2N1)/C=C/C(=O)O
reactant | 2-(methylaminomethyl)benzofuran | 6.9 mmole, 1.20 g | CNCC=1OC2=C(C1)C=CC=C2 | C10H11NO
reactant | 2-methyl-3-(methylaminomethyl)indole | CC=1NC2=CC=CC=C2C1CNC | C11H14N2
product | (E)-N-(benzofuran-2-ylmethyl)-N-methyl-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylamide | 2.0 g, 90% | O1C(=CC2=C1C=CC=C2)CN(C(\C=C\C=2C=NC=1NC(CCC1C2)=O)=O)C | C21H19N3O3
